US06545017B1
N-{4-[4-amino-2-(ethoxymethyl)-6-methyl-1H-imidazo[4,5-c]pyridin-1-yl]butyl}-N′-[(1R*,2S*)-2-phenylcyclopropyl]urea
Using the method of Examples 36-45, trans-2-phenylcyclopropyl isocyanate was reacted with 1-(4-aminobutyl)-2-ethoxymethyl-6-methyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The observed accurate mass was 437.2666.

reactant | trans-2-phenylcyclopropyl isocyanate | C1(=CC=CC=C1)[C@H]1[C@@H](C1)N=C=O | C10H9NO
reactant | 1-(4-aminobutyl)-2-ethoxymethyl-6-methyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCCCN1C(=NC=2C(=NC(=CC21)C)N)COCC | C14H23N5O
product | N-{4-[4-amino-2-(ethoxymethyl)-6-methyl-1H-imidazo[4,5-c]pyridin-1-yl]butyl}-N′-[(1R*,2S*)-2-phenylcyclopropyl]urea | NC1=NC(=CC2=C1N=C(N2CCCCNC(=O)N[C@H]2[C@@H](C2)C2=CC=CC=C2)COCC)C | C24H32N6O2
